US04352818
34 g (93.8 mmol) of benzyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbamate are hydrogenated at room temperature and normal pressure in 300 ml of methanol in the presence of 4 g of 10 percent palladium/carbon. After removal of the catalyst and evaporation, the residue is recrystallized from ethyl acetate and hexane. There is obtained 3-amino-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 202°-204°.

reactant | benzyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbamate | 93.8 mmol, 34 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2NC(=O)OCC2=CC=CC=C2 | C20H18N4O3
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium/carbon | 4 g | [Pd] | Pd
product | 3-amino-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | NC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H12N4O
